US09387200B2
h) {[7-(4-Fluoro-phenyl)-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid
A mixture of 7-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester (69 mg, 0.175 mmol), glycine (394 mg, 5.25 mmol), and NaOMe (8.75 mL, 4.37 mmol, 0.5 M solution in MeOH) was refluxed for 24 h. After the mixture was cooled to r. t. it was concentrated in vacuo. The residue was dissolved in water (25 mL) and washed with CH2Cl2 (2×15 mL). The aqueous solution was then acidified by addition of aqueous 1N HCl solution. The resulting precipitate was sucked off, washed with water, and dried in vacuo to give the title compound as white solid (50 mg): MS (m/z) 424.2 (M+1).

reactant | 7-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 0.175 mmol, 69 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC=C(C=C1)F)SN=C2C2=CC=CC=C2)O | C21H15FN2O3S
reactant | glycine | 5.25 mmol, 394 mg | NCC(=O)O | C2H5NO2
reactant | NaOMe | 4.37 mmol, 0.5 M, 8.75 mL | C[O-].[Na+]
product | {[7-(4-Fluoro-phenyl)-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | 50 mg | FC1=CC=C(C=C1)C=1N=C(C(=C2C1SN=C2C2=CC=CC=C2)O)C(=O)NCC(=O)O | C21H14FN3O4S
